US04489093
Using the process of Example 1, (1R,cis) 2,2-dimethyl-3(Z)-[2-bromo-3-oxo-3-tert.-butoxy-propenyl]-cyclopropane-1-carboxylic acid and (S)α-cyano-3-phenoxy-benzyl alcohol were reacted to obtain (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3(Z)-[2-bromo-3-oxo-3-tert.-butoxy-propenyl]-cyclopropane-1-carboxylate with a specific rotation of [α]D20 =+16.5°±2° (c=0.5% in chloroform).

reactant | (1R,cis) 2,2-dimethyl-3(Z)-[2-bromo-3-oxo-3-tert.-butoxy-propenyl]-cyclopropane-1-carboxylic acid | CC1([C@@H]([C@@H]1\C=C(\C(OC(C)(C)C)=O)/Br)C(=O)O)C | C13H19BrO4
reactant | (S)α-cyano-3-phenoxy-benzyl alcohol | C(#N)[C@H](C1=CC(=CC=C1)OC1=CC=CC=C1)O | C14H11NO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | (S)α-cyano-3-phenoxy-benzyl (1R,cis) 2,2-dimethyl-3(Z)-[2-bromo-3-oxo-3-tert.-butoxy-propenyl]-cyclopropane-1-carboxylate | CC1([C@@H]([C@@H]1\C=C(\C(OC(C)(C)C)=O)/Br)C(=O)O[C@@H](C1=CC(=CC=C1)OC1=CC=CC=C1)C#N)C | C27H28BrNO5
